US09127003B2
Intermediate 41: (3R,4S)-Benzyl 3-((tert-butoxycarbonyl)amino)-4-hydroxypiperidine-1-carboxylate
A solution of potassium carbonate (3.70 g, 26.8 mmol) in water (80 mL) was added to a solution of cis-benzyl 4-(benzoyloxy)-3-((tert-butoxycarbonyl)amino)piperidine-1-carboxylate (8.11 g, 17.84 mmol) in ethanol (160 mL) and the mixture was stirred at 70° C. for 20 h. The reaction mixture was concentrated in vacuo to ⅓rd volume and the resultant suspension was diluted with water (50 mL) and extracted using DCM (3×70 mL). The collected organics were combined and dried (Na2SO4) and concentrated in vacuo to afford the crude product as a colourless oil. The crude product was then purified by column chromatography on a silica cartridge (340 g) using a 0-100% ethyl acetate/cyclohexane gradient. The appropriate fractions were combined and evaporated in vacuo to give the required product cis-benzyl 3-((tert-butoxycarbonyl)amino)-4-hydroxypiperidine-1-carboxylate (5.54 g, 15.81 mmol, 89% yield) as a white foam.

reactant | potassium carbonate | 26.8 mmol, 3.70 g | C([O-])([O-])=O.[K+].[K+]
reactant | cis-benzyl 4-(benzoyloxy)-3-((tert-butoxycarbonyl)amino)piperidine-1-carboxylate | 17.84 mmol, 8.11 g | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@@H](CN(CC1)C(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C | C25H30N2O6
solvent | water | 80 mL | O | H2O
solvent | ethanol | 160 mL | C(C)O | C2H6O
product | cis-benzyl 3-((tert-butoxycarbonyl)amino)-4-hydroxypiperidine-1-carboxylate | 15.81 mmol, 5.54 g, 89% yield | C(C)(C)(C)OC(=O)N[C@@H]1CN(CC[C@@H]1O)C(=O)OCC1=CC=CC=C1 | C18H26N2O5
